US07485634B2
Preparation of 3-benzyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
Sodium hydride (60% in mineral oil, 320 mg, 8 mmol) was added to a stirred solution of ethyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate (520 mg, 2 mmol) in anhydrous DMF (8 mL) at 0° C. under nitrogen, and the resulting mixture was stirred at ambient temperature for 30 minutes. Benzyl bromide (345 mg, 2 mmol) was then added dropwise to the above mixture at 0° C. The resulting mixture was stirred at ambient temperature for 6 hours. Ammonium chloride solution was added carefully to quench the reaction at 0° C. The mixture was extracted with DCM. The combined extracts were washed with saturated ammonium chloride solution, water and brine, dried over sodium sulfate, and evaporated in vacuo to give a brown oil, which was purified by chromatography on silica gel eluting with EtOAc-Hexane (5:95) to give the title compound (421 mg); 1H-NMR (CDCl3): δ 10.53 (1H, s), 7.96 (1H, s), 7.41-7.25 (7H, m), 7.08-6.99 (2H, m), 4.57 (2H, s), 4.33-4.27 (2H, q), 3.48 (2H, m), 3.01 (2H, m), 1.36 (3H, t); MS (ES): 347 (MH+).

reactant | Sodium hydride | 8 mmol, 320 mg | [H-].[Na+]
reactant | ethyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | 2 mmol, 520 mg | C1CNC=C(C=2NC=3C=CC=CC3C21)C(=O)OCC | C15H16N2O2
reactant | Benzyl bromide | 2 mmol, 345 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-benzyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 421 mg | C(C)OC(=O)C1=CN(CCC2=C1NC=1C=CC=CC21)CC2=CC=CC=C2 | C22H22N2O2
